US06096736
The above product, 5-methoxycarbonylmethyl-1-(4-n-propylamino-2-chlorobenzoyl)-2,3,4,5-tetrahydro-1H-benzazepine (880 mg) is dissolved in ethanol (20 ml), and thereto is added a 6N aqueous sodium hydroxide solution (1 ml), and the mixture is stirred overnight at room temperature. The mixture is acidified with hydrochloric acid, and extracted with ethyl acetate. The extract is dried, and concentrated to give 5-carboxymethyl-1-(4-n-propylamino-2-chlorobenzoyl)-2,3,4,5-tetrahydro-1H-benzazepine (800 mg) as a white powder.

reactant | 5-methoxycarbonylmethyl-1-(4-n-propylamino-2-chlorobenzoyl)-2,3,4,5-tetrahydro-1H-benzazepine | 880 mg | COC(=O)CC1CCCN(C2=C1C=CC=C2)C(C2=C(C=C(C=C2)NCCC)Cl)=O | C23H27ClN2O3
reactant | sodium hydroxide | 6N, 1 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5-carboxymethyl-1-(4-n-propylamino-2-chlorobenzoyl)-2,3,4,5-tetrahydro-1H-benzazepine | 800 mg | C(=O)(O)CC1CCCN(C2=C1C=CC=C2)C(C2=C(C=C(C=C2)NCCC)Cl)=O | C22H25ClN2O3
